* source LAB1
V_V3         N02403 0  AC 1
+SIN 0 220 50 0 0 0
X1_TX1         N02403 0  N02309 N02317 ST_Model
D_D1         0 N02309 Dbreak 
D_D2         0 N02317 Dbreak 
D_D3         N02309 N02305 Dbreak 
D_D4         N02317 N02305 Dbreak 
R_R1         0 N02305  1k TC=0,0 
C_C1         0 N02305  680uF  TC=0,0 
X_D5         0 N02305 Zener_parameterized PARAMS: VZT=20 RSF=100m
