* source LAB1
V_V3         N02403 0  AC 1
+SIN 0 220 50 0 0 0
X1_TX1         N02403 0  N02309 N02317 ST_Model
D_D1         0 N02309 Dbreak 
D_D2         0 N02317 Dbreak 
D_D3         N02309 N02321 Dbreak 
D_D4         N02317 N02321 Dbreak 
C_C1         0 N02321  680uF  TC=0,0 
X_U1         N02321 N03396 N03788 0 0 LM2596_5P0_TRANS
C_C2         0 N03396  220uF  TC=0,0 
R_R1         0 N03396  1k TC=0,0 
L_L1         N03788 N03396  33uH  
X_D5         0 N03396 Zener_parameterized PARAMS: VZT=5 RSF=100m
